US07091201B2
To a solution of dimethyl-(3-methoxyphenoxy)-malonate (11.19 g) in methanol (100 ml) was added sodium methylate (6.48 g). The yellow solution was stirred for 6 h at rt. Then, morpholine-4-carboxamidine hydrobromide (8.40 g) was added and the mixture was stirred at rt for 16 h. The solvent was removed in vacuo and the residue was dissolved in water (150 ml) and extracted twice with diethyl ether (150 ml). The aqueous phase was acidified with 10% aq. citric acid. The solid that separated was collected, washed with water, evaporated twice from EA, and dried under high vacuum to give 5-(3-methoxy-phenoxy)-2-morpholin-4-yl-pyrimidine-4,6-diol (9.66 g) as a beige powder. LC-MS: tR=2.88 min, [M+1]+=320.19, [M−1]−=318.02.

reactant | dimethyl-(3-methoxyphenoxy)-malonate | 11.19 g | COC(C(C(=O)OC)OC1=CC(=CC=C1)OC)=O | C12H14O6
reactant | sodium methylate | 6.48 g | C[O-].[Na+]
reactant | morpholine-4-carboxamidine hydrobromide | 8.40 g | Br.N1(CCOCC1)C(=N)N
solvent | methanol | 100 ml | CO | CH4O
product | 5-(3-methoxy-phenoxy)-2-morpholin-4-yl-pyrimidine-4,6-diol | 9.66 g | COC=1C=C(OC=2C(=NC(=NC2O)N2CCOCC2)O)C=CC1 | C15H17N3O5
